US07842696B2
DIPEA (120 mg, 0.16 mL, 0.927 mmol) was added to a stirred solution of 5-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-1H-pyrazole-3-carboxylic acid (65 mg, 0.26 mmol) in DMF (2.5 mL). HOBT (37.6 mg, 0.27 mmol) and EDCI (53.4 mg, 0.2783 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (98 mg, 0.265 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue recrystallized from EtOAc to afford 31 mg (21% yield) of 5-(2-Oxo-2,3-dihydro-benzooxazol-6-yl)-1H-pyrazole-3-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 80.27%. 1H NMR (DMSO-d6): δ 13.7 (s, 1H), 11.8 (s, 1H), 8.0 (m, 1H), 7.9 (m, 1H), 7.7 (m, 1H), 7.5 (m, 3H), 7.06 (m, 2H), 4.1 (m, 2H), 3.4 (m, 6H), 3.1 (m, 2H).

reactant | DIPEA | 0.927 mmol, 0.16 mL, 120 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-1H-pyrazole-3-carboxylic acid | 0.26 mmol, 65 mg | O=C1OC2=C(N1)C=CC(=C2)C2=CC(=NN2)C(=O)O | C11H7N3O4
reactant | HOBT | 0.27 mmol, 37.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.2783 mmol, 53.4 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.265 mmol, 98 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-Oxo-2,3-dihydro-benzooxazol-6-yl)-1H-pyrazole-3-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 31 mg, 21% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=NNC(=C2)C2=CC3=C(NC(O3)=O)C=C2)=O)C1)C(F)(F)F | C25H20F4N6O5
